US09315491B2
5-Ethoxy-6-morpholin-4-yl-2-(4-phenoxycarbonylamino-phenyl)-pyrimidine-4-carboxylic acid ethyl ester
Phenyl chloroformate (0.95 ml, 1.5 eq.) was added to a stirred solution of 2-(4-Amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester (1.15 g, 1 eq.) in EA (20 ml) and NaHCO3(sat) (20 ml). The mixture was reacted at room temperature for 2 hrs. The reaction mixture was diluted with NaHCO3(sat) and extracted with EA. The organic solution was washed with brine, was dried (MgSO4), filtered and concentrated under reduced pressure to give a crude carbamate (1.21 g, 80%).

reactant | Phenyl chloroformate | 0.95 ml, 1.5 eq. | ClC(=O)OC1=CC=CC=C1 | C7H5ClO2
reactant | 2-(4-Amino-phenyl)-5-ethoxy-6-morpholin-4-yl-pyrimidine-4-carboxylic acid ethyl ester | 1.15 g, 1 eq. | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)N | C19H24N4O4
solvent | EA | 20 ml | CC(OCC)=O | C4H8O2
product | 5-Ethoxy-6-morpholin-4-yl-2-(4-phenoxycarbonylamino-phenyl)-pyrimidine-4-carboxylic acid ethyl ester | 1.21 g, 80% | C(C)OC(=O)C1=NC(=NC(=C1OCC)N1CCOCC1)C1=CC=C(C=C1)NC(=O)OC1=CC=CC=C1 | C26H28N4O6
